US07592461B2
A mixture of 2-phenylacetonitrile (5.86 g, 50 mmol) and 2-chlorobenzonitrile (7.22 g, 1.05 eq) in DMF (15 mL) was added to a solution of potassium t-butoxide (13.0 g, 2.2 eq, 95%) in DMF (30 mL) cooled with an ice-water bath at a rate such that the internal temperature not exceeding 25° C. 30 min after completion of addition, t-butyl bromoacetate (8.86 mL, 1.2 eq) was added dropwise. The resultant mixture was stirred at room temperature for 24 h, then poured to a mixture of 0.1 N HCl (200 mL), heptane (30 mL) and toluene (15 mL). No solid precipitate was formed. The mixture was extracted with ether (3×150 mL). The combined extracts were washed with water, brine, dried (MgSO4) and concentrated to about 50 mL of total volume to give a precipitate. The solid was collected by filtration, and washed with hexane, and ethyl acetate-hexane mixture (1:1) to give the desired tert-butyl 3-amino-1-cyano-1-phenyl-1H-indene-2-carboxylate (7.65 g, 46%). MS Found: (M+H)+=333.

reactant | 2-phenylacetonitrile | 50 mmol, 5.86 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | 2-chlorobenzonitrile | 7.22 g, 1.05 eq | ClC1=C(C#N)C=CC=C1 | C7H4ClN
reactant | potassium t-butoxide | 13.0 g, 2.2 eq | CC(C)([O-])C.[K+]
reactant | t-butyl bromoacetate | 8.86 mL, 1.2 eq | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | HCl | 0.1 N, 200 mL | Cl | ClH
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | heptane | 30 mL | CCCCCCC | C7H16
product | tert-butyl 3-amino-1-cyano-1-phenyl-1H-indene-2-carboxylate | 7.65 g, 46% | NC1=C(C(C2=CC=CC=C12)(C1=CC=CC=C1)C#N)C(=O)OC(C)(C)C | C21H20N2O2
